US08648066B2
To 6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4(3H)-one (6.41 g, 36 mmol) in chloroform (10 mL) added phosphorus oxychloride (10 mL) and refluxed for 2 hours. The mixture was concentrated to an oil, then diluted with ethyl acetate (80 mL) and washed with saturated sodium carbonate (50 mL) and brine (25 mL). The solution was dried over anhydrous sodium sulfate, filtered and concentrated, then the residue purified by silica gel column chromatography (ethyl acetate/hexanes, 1:8) to give 4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazoline (5.3 g, 75% yield) as a yellow solid. 1H NMR (400 MHz, CDCl3): 8.72 (s, 1H), 2.52 (t, 2H), 2.14 (s, 2H), 1.48 (t 2H), 0.93 (s, 6H); MS (EI) for C10H13ClN2: 197 (MH+).

reactant | 6,6-dimethyl-5,6,7,8-tetrahydroquinazolin-4(3H)-one | 36 mmol, 6.41 g | CC1(CC=2C(NC=NC2CC1)=O)C | C10H14N2O
reactant | phosphorus oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-6,6-dimethyl-5,6,7,8-tetrahydroquinazoline | 5.3 g, 75% yield | ClC1=NC=NC=2CCC(CC12)(C)C | C10H13ClN2
